### PR TITLE
feat(Analysis/Complex/Arg): lemmas on real scaling, SameRay and normalize

### PR DESCRIPTION
**Pull request by mkaratarakis**
A few small lemmas on rays

### CODE REVIEW

**Comment by mkaratarakis** [comment]
@themathqueen could you also please take a look at this one too? https://github.com/leanprover-community/mathlib4/pull/43757

File: Mathlib/Analysis/Complex/Arg.lean [hunk 1]
```diff
@@ -5,7 +5,9 @@ Authors: Eric Rodriguez
 -/
 module
 
+public import Mathlib.Analysis.Complex.Norm
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/Arg.lean:8]:
```suggestion
```

File: Mathlib/Analysis/Complex/Arg.lean [hunk 2]
```diff
@@ -20,7 +22,9 @@ the usual way this is considered.
   have the same argument.
 * `Complex.abs_add_eq/Complex.abs_sub_eq`: If two nonzero complex numbers have the same argument,
   then the triangle inequality is an equality.
-
+* `Complex.exists_nonneg_mul_of_sameRay`: the `*` form of `SameRay.exists_nonneg_right`.
+* `Complex.sameRay_ofReal_mul`, `Complex.normalize_ofReal_mul`: nonnegative real scaling
+  preserves `SameRay`, and positive real scaling preserves the phase.
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/Arg.lean:27]:
```suggestion
  preserves `SameRay`, and positive real scaling preserves the phase.

```

File: Mathlib/Analysis/Complex/Arg.lean [hunk 3]
```diff
@@ -61,4 +65,26 @@ theorem norm_add_eq (h : x.arg = y.arg) : ‖x + y‖ = ‖x‖ + ‖y‖ :=
 theorem norm_sub_eq (h : x.arg = y.arg) : ‖x - y‖ = ‖‖x‖ - ‖y‖‖ :=
   (sameRay_of_arg_eq h).norm_sub
 
+variable {z w : ℂ} {c : ℝ}
+
+/-- A nonnegative real multiple of `w` lies on the same closed ray as `w`. -/
+lemma sameRay_ofReal_mul (hc : 0 ≤ c) : SameRay ℝ ((c : ℂ) * w) w := by
+  rw [← real_smul]
+  exact SameRay.sameRay_nonneg_smul_left w hc
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/Arg.lean:73]:
```suggestion
  simpa using SameRay.sameRay_nonneg_smul_left w hc
```

File: Mathlib/Analysis/Complex/Arg.lean [hunk 4]
```diff
@@ -61,4 +65,26 @@ theorem norm_add_eq (h : x.arg = y.arg) : ‖x + y‖ = ‖x‖ + ‖y‖ :=
...
+
+/-- A complex number on the same ray as a nonzero `w` is a nonnegative real multiple of `w`. -/
+lemma exists_nonneg_mul_of_sameRay (h : SameRay ℝ z w) (hw : w ≠ 0) :
+    ∃ k : ℝ, 0 ≤ k ∧ z = (k : ℂ) * w := by
+  obtain ⟨k, hk, hz⟩ := h.exists_nonneg_right hw
+  exact ⟨k, hk, by rwa [real_smul] at hz⟩
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/Arg.lean:79]:
```suggestion
  simpa using h.exists_nonneg_right hw
```

**Comment by mkaratarakis** [comment]
@themathqueen , thanks a lot for the reviews!
